US08404709B2
3-Acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-1,6-naphthyridin-5-yl propanesulfonate
The title compound is prepared in analogy to example 10 from 50 mg (0.13 mmol) of 3-acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-4,6-dihydro-1,6-naphthyridin-5(1H)-one and 17 μl (0.15 mmol) of propanesulfonyl chloride. 46 mg (71% of theory) of the product are obtained as a pale yellow solid.

reactant | 3-acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-4,6-dihydro-1,6-naphthyridin-5(1H)-one | 0.13 mmol, 50 mg | C(C)(=O)C1=C(NC=2C=CNC(C2C1C=1C=CC=C2C(C=C(OC12)C)=O)=O)C | C21H18N2O4
reactant | propanesulfonyl chloride | 0.15 mmol, 17 μl | C(CC)S(=O)(=O)Cl | C3H7ClO2S
product | 3-Acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-1,6-naphthyridin-5-yl propanesulfonate | C(CC)S(=O)(=O)OC1=C2C(C(=C(NC2=CC=N1)C)C(C)=O)C=1C=CC=C2C(C=C(OC12)C)=O | C24H24N2O6S
